US06914065B2
To a solution of 5′-amino-2′-fluorobiphenyl-2-carbonitrile (11.17 g, 52.6 mmol) in 1,4-dioxane (60 ml) was added 48% hydrobromic acid (250 ml) and the resulting suspension was cooled to 2° C., whilst stirring with an air stirrer. To this was added, dropwise over 20 min, a solution of sodium nitrite (4.18 g, 60.6 mmol) in water (11 ml), keeping the temperature below 5° C. The mixture was then stirred at 2±2° C. for 2 h before adding a cooled (5° C.) solution of freshly purified copper(I) bromide (25.40 g, 177.1 mmol) in 48% hydrobromic acid (75 ml). The mixture was stirred at 1±1° C. for 10 min before heating to 47° C. over 1 h. The mixture was diluted with ice-cold water (1.25 l) and extracted with ethyl acetate (2×500 ml). The combined organic extracts were washed with 1 M aqueous Na2SO3 (100 ml), then saturated aqueous NaCl (100 ml), dried (MgSO4) and evaporated in vacuo to leave 16.08 g of 5′-bromo-2′-fluorobiphenyl-2-carbonitrile as a light brown solid: 1H NMR (360 MHz, CDCl3) δ 7.12 (1H, t, J 9.1 Hz), 7.47-7.57 (4H, m), 7.68 (1H, td, J 7.7, 1.3 Hz), 7.79 (1H, d, J 7.8 Hz).

reactant | 5′-amino-2′-fluorobiphenyl-2-carbonitrile | 52.6 mmol, 11.17 g | NC=1C=CC(=C(C1)C=1C(=CC=CC1)C#N)F | C13H9FN2
reactant | sodium nitrite | 60.6 mmol, 4.18 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 75 ml | Br | BrH
reactant | hydrobromic acid | 250 ml | Br | BrH
solvent | 1,4-dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | water | 11 ml | O | H2O
catalyst | copper(I) bromide | 177.1 mmol, 25.40 g | [Cu]Br
product | 5′-bromo-2′-fluorobiphenyl-2-carbonitrile | 16.08 g | BrC=1C=CC(=C(C1)C=1C(=CC=CC1)C#N)F | C13H7BrFN
